US08426420B2
i) (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid tert-butyl ester
To a solution of 500 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 5 ml DMF were added 186 mg HOBt, 232 mg EDC, 0.50 ml DIPEA and 220 mg L-Ala-OtBu×HCl. After stirring for 12 h it was concentrated and the residue dissolved in ethyl acetate. It was extracted with aqueous LiCl (4% w/w), aqueous NaHCO3 and 0.1 M HCl. The organic layer was dried over MgSO4 and concentrated to furnish the crude coupling product as colorless oil.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 500 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HOBt | 186 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.50 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | L-Ala-OtBu | 220 mg | N[C@@H](C)C(=O)OC(C)(C)C | C7H15NO2
reactant | HCl | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EDC | 232 mg
product | (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C28H37N5O6
